US05760236
Methyl 4-(5-chloro-1,6-dihydro-6-oxopyridin-3-yl)-4-oxobutyrate
This compound was also obtained in 28 percent yield by chlorinating 5-succinoyl-2-pyridone methyl ester (obtained analogously to Example 7 from 5-succinoyl-2-pyridone and methanol/sulfuric acid) using chlorine in methanol. The main product obtained (70 percent yield) was methyl 4-(3,5-dichloro-2-methoxy-6-oxo-1,2,3,6-tetrahydropyridin-3-yl)-4-oxobutyrate, which was characterized by the following data:

reactant | chlorine | ClCl | Cl2
reactant | methyl 4-(3,5-dichloro-2-methoxy-6-oxo-1,2,3,6-tetrahydropyridin-3-yl)-4-oxobutyrate | ClC1(C(NC(C(=C1)Cl)=O)OC)C(CCC(=O)OC)=O | C11H13Cl2NO5
solvent | methanol | CO | CH4O
product | Methyl 4-(5-chloro-1,6-dihydro-6-oxopyridin-3-yl)-4-oxobutyrate | ClC1=CC(=CNC1=O)C(CCC(=O)OC)=O | C10H10ClNO4
